US08791272B2
[3,5-Dimethyl-1-(4-nitro-benzyl)-1H-pyrazol-4-yl]-acetic acid methyl ester
To a solution of (3,5-dimethyl-1H-pyrazol-4-yl)-acetic acid methyl ester (3.90 g, 23 mmol, Enamine EN300-15247) and 4-nitrobenzyl bromide (4.60 g, 20.7 mmol) in acetonitrile was added K2CO3 (2.76 g, 19.9 mmol) and the mixture was stirred for one hour at room temperature. The reaction mixture was poured into water and extracted twice with ethyl acetate. The organic phase was dried over MgSO4 and evaporated under reduced pressure.

reactant | (3,5-dimethyl-1H-pyrazol-4-yl)-acetic acid methyl ester | 23 mmol, 3.90 g | COC(CC=1C(=NNC1C)C)=O | C8H12N2O2
reactant | 4-nitrobenzyl bromide | 20.7 mmol, 4.60 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | K2CO3 | 19.9 mmol, 2.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | [3,5-Dimethyl-1-(4-nitro-benzyl)-1H-pyrazol-4-yl]-acetic acid methyl ester | COC(CC=1C(=NN(C1C)CC1=CC=C(C=C1)[N+](=O)[O-])C)=O | C15H17N3O4
